US03953500
To 60 ml. of dioxane are added 8.0 g. of 4-(p-methoxybenzyl)indan-1-carbonitrile and 2.8 g. of selenium dioxide and the mixture is refluxed for 12 hours. After cooling, water is added, followed by extraction with chloroform. The extract is washed with water and dried. Then, the solvent is distilled off under reduced pressure and the residue is purified by column chromatography (500 g. silica gel; eluted with chloroform). The crude crystals thus obtained are recrystallized from benzene. The procedure gives 4-(p-methoxybenzoyl)indan-1-carbonitrile as crystals melting at 115.5°-117.5°C.

reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 4-(p-methoxybenzyl)indan-1-carbonitrile | COC1=CC=C(CC2=C3CCC(C3=CC=C2)C#N)C=C1 | C18H17NO
reactant | selenium dioxide | [Se](=O)=O | O2Se
solvent | water | O | H2O
product | 4-(p-methoxybenzoyl)indan-1-carbonitrile | COC1=CC=C(C(=O)C2=C3CCC(C3=CC=C2)C#N)C=C1 | C18H15NO2
